US04717416
3,7-Dichloro-8-[2-(4-hydroxybenzyl)-vinyl]-quinoline
36 ml of a 15% strength solution of sodium methylate in methanol were added to 11 g of 3,7-dichloro-8-formylquinoline and 21.6 g of 4-hydroxyacetophenone-triphenylphosphonium chloride in 150 ml of ethanol. The mixture was stirred for 21/2 hours at 20° C., after which 3 ml of glacial acetic acid were added and the precipitate was filtered off under suction, washed with water and dried.

reactant | sodium methylate | C[O-].[Na+]
reactant | 3,7-dichloro-8-formylquinoline | 11 g | ClC=1C=NC2=C(C(=CC=C2C1)Cl)C=O | C10H5Cl2NO
reactant | 4-hydroxyacetophenone triphenylphosphonium chloride | 21.6 g | CC(=O)C=1C=CC(=CC1)O.[Cl-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3,7-Dichloro-8-[2-(4-hydroxybenzyl)-vinyl]-quinoline | ClC=1C=NC2=C(C(=CC=C2C1)Cl)C=CCC1=CC=C(C=C1)O | C18H13Cl2NO
